US04933355
5-{1-[2-(3-Benzoylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid 1/2 acetic acid 1/2 ammonia adduct
The reaction described in Example 1 was repeated, but using 1.5 g of ethyl 2-(3-benzoylthioureido)thiazol-4-ylglyoxylate, 0.79 g of rhodanine-3-acetic acid, 0.1 g of ammonium chloride, 0.4 ml of 28% v/v aqueous ammonia, and 20 ml of ethanol, giving the title compound as a yellow powder.

reactant | ethyl 2-(3-benzoylthioureido)thiazol-4-ylglyoxylate | 1.5 g | C(C1=CC=CC=C1)(=O)NC(NC=1SC=C(N1)C(C(=O)OCC)=O)=S | C15H13N3O4S2
reactant | rhodanine-3-acetic acid | 0.79 g | S1C(=S)N(C(=O)C1)CC(=O)O | C5H5NO3S2
reactant | ammonium chloride | 0.1 g | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-{1-[2-(3-Benzoylthioureido)thiazol-4-yl]-1-ethoxycarbonylmethylene}rhodanine-3-acetic acid | C(C1=CC=CC=C1)(=O)NC(NC=1SC=C(N1)C(C(=O)OCC)=C1C(N(C(S1)=S)CC(=O)O)=O)=S | C20H16N4O6S4
